US05238948
28. Bis(2-ethoxy-ethyl) pyridine-2,4-dicarboxylate
As described in Example 26, 10 g of pyridine-2,4-dicarboxylic acid are reacted with ethylene glycol monoethyl ether via the acid chloride. The reaction mixture is worked up analogously to Example 26. The product is obtained as an oil. Yield 7.2 g

reactant | pyridine-2,4-dicarboxylic acid | 10 g | N1=C(C=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | ethylene glycol monoethyl ether | C(C)OCCO | C4H10O2
product | Bis(2-ethoxy-ethyl) pyridine-2,4-dicarboxylate | N1=C(C=C(C=C1)C(=O)OCCOCC)C(=O)OCCOCC | C15H21NO6
